US07312241B2
To a stirred solution of (3,5-dimethoxyphenyl)-(3-methoxyphenyl)methanol (2.47 g, 9.0 mmol) in CH2Cl2 (20 ml) at rt was added activated MnO2 powder (3.91 g, 45 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed at least 98% conversion occurred. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (3,5-dimethoxy-phenyl)-(3-methoxy-phenyl)methanone was an oil (2.35 g, 92%): 1HNMR (CDCl3) δ 7.38-7.35 (m, 3H, Ar), 7.15-7.13 (m, 1H, Ar), 6.93 (d, J=2 Hz, 2H, Ar), 6.67 (t, J=2 Hz, 1H, Ar), 3.86 (s, 3H, single OCH3 group), 3.83 (s, 6H, 2OCH3), 0.99 (s, 9H, 3OCH3). The product was carried over to the next step.

reactant | (3,5-dimethoxyphenyl)-(3-methoxyphenyl)methanol | 9.0 mmol, 2.47 g | COC=1C=C(C=C(C1)OC)C(O)C1=CC(=CC=C1)OC | C16H18O4
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 45 mmol, 3.91 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | (3,5-dimethoxy-phenyl)-(3-methoxy-phenyl)methanone | COC=1C=C(C=C(C1)OC)C(=O)C1=CC(=CC=C1)OC | C16H16O4
